US04632930
4-(1-Methylethyl)-5-(4-methylthiophenyl)-1-(α-ethoxyethyl)imidazole
A mixture of 7.48 g (32.2 mmoles) of 4-(1-methylethyl)-5-(4-methythiophenyl)-1H-imidazole, 4.56 g (35.3 mmoles) of dichloroacetic acid and 17.57 g (0.24 mole) of ethyl vinyl ether in 350 ml of toluene were heated at reflux for 3.5 hours. The reaction mixture was cooled to room temperature and was then stirred overnight with 100 ml of 25% aqueous sodium hydroxide. The organic layer was separated and the aqueous was extracted with ether (2×). The organic fractions were combined, washed with brine, and dried over anhydrous potassium carbonate. Removal of the solvent in vacuo afforded 9.8 g of an orange oil which was used in the subsequent reaction without purification.

reactant | 4-(1-methylethyl)-5-(4-methythiophenyl)-1H-imidazole | 32.2 mmoles, 7.48 g | CC(C)C=1N=CNC1C1=CC=C(C=C1)SC | C13H16N2S
reactant | dichloroacetic acid | 35.3 mmoles, 4.56 g | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | ethyl vinyl ether | 0.24 mole, 17.57 g | C(=C)OCC | C4H8O
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(1-Methylethyl)-5-(4-methylthiophenyl)-1-(α-ethoxyethyl)imidazole | 9.8 g | CC(C)C=1N=CN(C1C1=CC=C(C=C1)SC)C(C)OCC | C17H24N2OS
